US03974154
1-(1-t-Butoxycarbonyl-1-triphenylphosphoranylidenemethyl)-3-(triphenylmethylamino)-4-(3-p-fluorophenylprop-2-ynylthio)azetidin-2-one (370mg) was refluxed is piperidine (25ml) under nitrogen for 6 hours. The mixture was cooled, diluted with ethyl acetate and the organic layer washed with N-hydrochloric acid and brine, dried and evaporated to an amorphous solid. Chromatography on silica gave 1-(1-t-butoxycarbonyl-1-triphenylphosphoranylidenemethyl)-3-(triphenylmethylamino)-4-(3-p-fluorophenyl-2-oxopropylthio)azetidin-2-one as an amorphous solid (330mg).

reactant | 1-(1-t-Butoxycarbonyl-1-triphenylphosphoranylidenemethyl)-3-(triphenylmethylamino)-4-(3-p-fluorophenylprop-2-ynylthio)azetidin-2-one | 370mg | C(C)(C)(C)OC(=O)C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C(C(C1SCC#CC1=CC=C(C=C1)F)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C55H48FN2O3PS
reactant | piperidine | 25ml | N1CCCCC1 | C5H11N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(1-t-butoxycarbonyl-1-triphenylphosphoranylidenemethyl)-3-(triphenylmethylamino)-4-(3-p-fluorophenyl-2-oxopropylthio)azetidin-2-one | 330mg | C(C)(C)(C)OC(=O)C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C(C(C1SCC(CC1=CC=C(C=C1)F)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C55H50FN2O4PS
